US03991046
To a suspension of 6β-amino-2,2-dimethylpenam-3α-carboxylic acid (1.08 g) in chloroform (25 ml) was added hexamethyldisilazane (2.49 g) and the mixture was heated under reflux for two hours, during which time solution occurred. The solvents were removed under reduced pressure, giving trimethylsilyl 2,2-dimethyl-6β-trimethylsilylaminopenam-3α-carboxylate as a solid. The solid was dissolved in methylene chloride (20 ml) and propylene oxide (1.5 ml) added. The solution was cooled to 0° and treated dropwise with 2-dichloroacetoxyimino-2-phenylacetyl chloride (from 1.38 g. 2-dichloroacetoxyimino-2-phenylacetic acid (syn-isomer)) in methylene chloride (20 ml), over a period of fifteen minutes with stirring. The solution was allowed to stir for 2 hours at room temperature. The solvents were evaporation under reduced pressure below 35°, and the residue taken up in ethyl acetate. After addition of methanol (2 ml), the solution was extracted as rapidly as possible with ice-cold sodium bicarbonate solution and the combined extracts washed with ethyl acetate and poured into a stirred mixture of ethyl acetate and 2N-hydrochloric acid. The organic phase was separated and combined with an ethyl acetate extraction of the aqueous phase, and the solution washed with water, dried and evaporated. The residue was taken up in ethyl acetate (5 ml) and added dropwise to petroleum (b.p. 40°-60°; 200 ml). The precipitated solid was filtered and dried, giving 6β-(2-hydroxyimino-2-phenylacetamido)-2,2-dimethylpenam-3α-carboxylic acid (syn-isomer) (0.84 g; 46%), [α]D + 210° (c 0.9,DMSO), λmax. (BtOH) 251 nm (ε 9,450), νmax. (Nujol) 3650 - 2300 (OH), 3280 (NH), 1758 (β-lactam), 1735 (CO2H), 1650 and 1510 cm-1 (CONH), τ (DMSO-d6) 0.51 (doublet, J 7 Hz; NH), 2.2-2.7 (multiplet; aromatic protons), 4.28 (quartet, J 4 Hz and 7 Hz; C-6H), 4.40 (doublet J 4 Hz; C-5H), 5.27 (singlet; C-3 H), 8.39 and 8.48 (two singlets; methyl groups).

reactant | 6β-amino-2,2-dimethylpenam-3α-carboxylic acid | 1.08 g | N[C@H]1[C@@H]2N([C@H](C(S2)(C)C)C(=O)O)C1=O | C8H12N2O3S
reactant | hexamethyldisilazane | 2.49 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | trimethylsilyl 2,2-dimethyl-6β-trimethylsilylaminopenam-3α-carboxylate | CC1(S[C@H]2N([C@H]1C(=O)O[Si](C)(C)C)C([C@H]2N[Si](C)(C)C)=O)C | C14H28N2O3SSi2
